Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left Common Iliac Artery Aneurysm
 
Major Surgical or Invasive Procedure:
___: Physician ___ Renal Artery Stent

 
History of Present Illness:
___ year old man with asymptomatic left iliac artery aneurysm 
presents for elective endovascular repair.
 
Past Medical History:
DMII, HTN, ___ HLD, CKD-stage 3a, DVT x2 w/ PE (___) - 
coumadin pulmonary hypertension, OSA, COPD, and Hx. 
cholelithiasis,  gout, former smoker.  

left iliac artery aneurysm s/p coil embolization
 
Physical Exam:
Physical Exam:
Alert and oriented x 3 
Resp: Lungs clear though diminished breath sound throughout
Abd: Soft, non tender
Ext: Pulses: Palpable through out.
Feet warm,  well perfused.  No open areas
___ groin puncture site: Dressing clean dry and intact. 
Soft, no hematoma or ecchymosis.
 
Pertinent Results:
___ 11:29AM BLOOD WBC-7.0 RBC-3.41* Hgb-10.1* Hct-32.4* 
MCV-95 MCH-29.6 MCHC-31.2* RDW-14.9 RDWSD-50.7* Plt ___
___ 09:10AM BLOOD Glucose-235* UreaN-24* Creat-1.5* Na-141 
K-4.1 Cl-102 HCO3-27 AnGap-16
___ 09:10AM BLOOD Calcium-8.3* Phos-2.3* Mg-2.0

CXR: ___
Large lung volumes with deficient upper lobe vasculature suggest 
emphysema 
which tends to underestimate actual heart size, at least 
moderately enlarged, 
and produce bronchovascular crowding at the lung bases.  As such 
I cannot 
exclude bronchiectasis or moderate atelectasis.  The upper lungs 
are clear.  
There is no pulmonary edema. 
  
Mediastinal widening and mild tubulation of the trachea could be 
due to 
mediastinal fat deposition and chronic lung disease, 
respectively, but 
adenopathy cannot be excluded. 

 
Brief Hospital Course:
Mr. ___ is a ___ with a history of a Left Common Iliac Artery 
Aneurysm s/p Prior Coil Embolization who was admitted to the 
___ on ___. The patient 
was taken to the endovascular suite and underwent physician 
modified ___ and ___ renal artery stenting. For details of 
the procedure, please see the surgeon's operative note. The 
patient tolerated the procedure well without complications and 
was brought to the post-anesthesia care unit in stable 
condition. After a brief stay, the patient was transferred to 
the vascular surgery floor where he remained through the rest of 
the hospitalization. 

Post-operatively, he did well without any groin swelling. He 
did, however, have some post-operative issues with low oxygen 
saturations to the ___ with activity or while asleep. He has a 
substantial smoking history and has been diagnosed with COPD, 
though he reports he has refused outpatient inhalation 
medications or home oxygen on several occasions.  At discharge 
we feel his respiratory status is at baseline.

Prior to discharge, he was able to tolerate a regular diet, get 
out of bed and ambulate without assistance, void without issues, 
and pain was controlled on oral medications alone. He was deemed 
ready for discharge, and was given the appropriate discharge and 
follow-up instructions.  He is to remain on Plavix for the renal 
stent for the next month.   We have arranged followup with Dr. 
___ with CTA in one month as well.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. Metoprolol Succinate XL 200 mg PO DAILY 
___  MD to order daily dose PO DAILY16 
5. amLODIPine 5 mg PO DAILY 
6. GlipiZIDE 5 mg PO DAILY 
7. Atorvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Clopidogrel 75 mg PO DAILY 
FOR THE NEXT ___ DAYS ONLY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Warfarin 4 mg PO DAILY16  
4.  Allopurinol ___ mg PO DAILY  
5.  amLODIPine 5 mg PO DAILY  
6.  Atorvastatin 10 mg PO QPM  
7.  GlipiZIDE 5 mg PO DAILY  
8.  Lisinopril 40 mg PO DAILY  
9.  Metoprolol Succinate XL 200 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left Common Iliac Artery Aneurysm
COPD
Hypoxic Respiratory Failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted to the ___ 
for endovascular repair of your Left Iliac Artery Aneurysm. 

During your stay, your oxygen saturations were noted to be quite 
low especially when sleeping WITHOUT your CPAP.  When we woke 
you up, your oxygen levels returned to baseline.  At baseline 
your O2 sats where in the low 90's.  We agree with Dr. 
___ inhalers, including Advair and Spiriva, and home 
oxygen are indicated for your severe lung disease.   
Additionally it is imperative that you wear your CPAP nightly to 
prevent low oxygen levels.  

You tolerated this procedure well and are ready to return home 
to finish your recovery. 

Please see the following instructions regarding your discharge. 

MEDICATIONS:
 Take plavix(enteric coated) once daily for the next month 
only. 
 Do not stop  unless your Vascular Surgeon instructs you to do 
so. 
 Continue all other medications you were taking before surgery, 
unless otherwise directed
 You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT AT HOME:
It is normal to have slight swelling of the legs:
 Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
 Avoid prolonged periods of standing or sitting without your 
legs elevated
It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
 Drink plenty of fluids and eat small frequent meals
 It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
 To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
 When you go home, you may walk and go up and down stairs
 You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
 Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
 No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
 After 1 week, you may resume sexual activity
 After 1 week, gradually increase your activities and distance 
walked as you can tolerate
 No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___
 Numbness, coldness or pain in lower extremities 
 Temperature greater than 101.5F for 24 hours
 New or increased drainage from incision or white, yellow or 
green drainage from incisions
 Bleeding from groin puncture site

FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)
 Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office. If bleeding does not stop, call ___ for 
transfer to closest Emergency Room. 

Good Luck
 
Followup Instructions:
___